### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Pow/Real): rpow_ne_zero

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/Real.lean [hunk 1]
```diff
@@ -85,6 +85,11 @@ theorem rpow_eq_zero_iff_of_nonneg (hx : 0 ≤ x) : x ^ y = 0 ↔ x = 0 ∧ y 
 lemma rpow_eq_zero (hx : 0 ≤ x) (hy : y ≠ 0) : x ^ y = 0 ↔ x = 0 := by
   simp [rpow_eq_zero_iff_of_nonneg, *]
 
+@[simp]
+lemma rpow_ne_zero (hx : 0 ≤ x) (hy : y ≠ 0) : x ^ y ≠ 0 ↔ x ≠ 0 := by
+  rw [not_iff_not]
+  exact Real.rpow_eq_zero hx hy
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Pow/Real.lean:91]:
```suggestion
lemma rpow_ne_zero (hx : 0 ≤ x) (hy : y ≠ 0) : x ^ y ≠ 0 ↔ x ≠ 0 :=
  Real.rpow_eq_zero hx hy |>.not
```

**Review by Ruben-VandeVelde — APPROVED** [review]

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge
